US07652133B2
To a solution of N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (200 mg) and triethylamine (70 μL) in tetrahydrofuran (5 mL) was added methanesulfonyl chloride (60 mg) at room temperature, and the mixture was stirred for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give 2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)ethyl methanesulfonate (126 mg, yield 54%, MS: 500 (MH+)) and N-{2-[5-(2-chloroethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (16 mg, yield 8%,

reactant | N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 200 mg | OCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C18H19N3O3S3
reactant | triethylamine | 70 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 60 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-{2-[5-(2-chloroethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | ClCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C18H18ClN3O2S3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)ethyl methanesulfonate | 126 mg, yield 54% | CS(=O)(=O)OCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C19H21N3O5S4
